US08536197B2
Ethyl 2-(4-chloro-2-oxopyridin-1(2H)-yl)-4-methyl-1,3-thiazole-5-carboxylate
4-Chloro-2-hydroxypyridine (500 mg, 3.86 mmol), ethyl 2-bromo-4-methyl-1,3-thiazole-5-carboxylate (1.06 g, 4.24 mmol), potassium carbonate (1.06 g, 7.67 mmol) and copper (I) iodide (73 mg, 0.38 mmol) were suspended in DMF (4 mL). trans(±)-N,N′-Dimethylcyclohexane-1,2-diamine (82 mg, 0.58 mmol) was added, and the mixture was stirred at 100° C. for five hours. The reaction solution was diluted with ethyl acetate, washed with water, and dried over anhydrous sodium sulfate. Following concentration under reduced pressure, the residue was purified by silica gel column chromatography (elution solvent: hexane/ethyl acetate=5/1→2/1) to obtain 3.2 mg of the title compound as a white solid (0.3%).

reactant | 4-Chloro-2-hydroxypyridine | 3.86 mmol, 500 mg | ClC1=CC(=NC=C1)O | C5H4ClNO
reactant | ethyl 2-bromo-4-methyl-1,3-thiazole-5-carboxylate | 4.24 mmol, 1.06 g | BrC=1SC(=C(N1)C)C(=O)OCC | C7H8BrNO2S
reactant | potassium carbonate | 7.67 mmol, 1.06 g | C([O-])([O-])=O.[K+].[K+]
reactant | trans(±)-N,N′-Dimethylcyclohexane-1,2-diamine | 0.58 mmol, 82 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper (I) iodide | 0.38 mmol, 73 mg | [Cu]I
product | Ethyl 2-(4-chloro-2-oxopyridin-1(2H)-yl)-4-methyl-1,3-thiazole-5-carboxylate | 3.2 mg, 0.3% | ClC1=CC(N(C=C1)C=1SC(=C(N1)C)C(=O)OCC)=O | C12H11ClN2O3S
